US07897631B2
2-Amino-hept-6-ynoic acid methyl ester hydrochloride (2.00 g, 10.4 mmol) was treated to an Akabori reduction followed by a cyanamide condensation employing conditions previously reported to produce 4-Pent-4-ynyl-1H-imidazol-2-ylamine hydrochloride (1.75 g, 90%) as a pale oil (Olofson et al., Journal of Organic Chemistry 1997, 62, (23), 7918-7919). 1H NMR (300 MHz, CDCl3) δ 6.68 (bs, 2H), δ 6.24 (s, 1H), δ 2.51 (t, 2H), δ 2.17 (t, 1H), δ 1.95 (s, 1H), δ 1.74 (m, 2H) ppm; 13C NMR (75 MHz, CDCl3) δ 148.3, 132.7, 111.6, 84.4, 69.1, 28.0, 26.0, 18.2 ppm; HRMS (ESI) calcd for C10H16N3 (M+) 150.1026. found 150.1029.

reactant | 2-Amino-hept-6-ynoic acid methyl ester hydrochloride | 10.4 mmol, 2.00 g | Cl.COC(C(CCCC#C)N)=O
reactant | cyanamide | N#CN | CH2N2
product | 4-Pent-4-ynyl-1H-imidazol-2-ylamine hydrochloride | 1.75 g, 90% | Cl.C(CCC#C)C=1N=C(NC1)N | InChI=1S/C8H11N3.ClH/c1-2-3-4-5-7-6-10-8(9)11-7;/h1,6H,3-5H2,(H3,9,10,11);1H
